US07030141B2
Step 5: Pyrrolidine-2-carboxylic acid (2′-methanesulfonyl-biphenyl-4-yl)-amide
2-(2′-Methanesulfonyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.8 g, 1.7 mmol) was dissolved in 25 mL DCM and 5 mL trifluoroacetic acid and stirred at ambient temperature for one hour and concentrated. Redissolved in 100 mL EtOAc and 100 mL sat. NaHCO3, separated layers, washed organics with brine, dried with MgSO4, filtered and concentrated to yield title compound as an oil (quant. yield) APCI (AP−): 343.1 (M−H)−.

reactant | 2-(2′-Methanesulfonyl-biphenyl-4-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.7 mmol, 0.8 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=CC=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)=O | C23H28N2O5S
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | Pyrrolidine-2-carboxylic acid (2′-methanesulfonyl-biphenyl-4-yl)-amide | quant. yield | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(=O)C1NCCC1 | C18H20N2O3S
